US04169719
C. 2-Furansulfonamide
Twenty-three g of 2-furansulfonyl chloride (138 mm) was added dropwise into 200 ml of conc. NH4OH at 0°-5°. After stirring overnight at room temperature, the water was removed under vacuum and the precipitate washed with ice water and dried. Yield: 14 g 2-furansulfonamide m.p. 120-122°. (literature m.p. 120°-122°: JOC 18, 894 (1953)). IR (Nujol) 3250 cm-1, 3100 cm-1, 1600 cm-1 (W), 1550 cm-1, 1310 cm-1, 1190 cm-1, 1140 cm-1 1120 cm-1, 1055 cm-1, 1005 cm-1, 930 cm-1, 880 cm-1, 843 cm-1 (S).

reactant | 2-furansulfonyl chloride | O1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO3S
reactant | NH4OH | 200 ml | [NH4+].[OH-]
product | 2-Furansulfonamide | O1C(=CC=C1)S(=O)(=O)N | C4H5NO3S
